US04725600
To a solution of 6-(3,4-dimethoxyphenyl)-2-methyl-4-(1-piperazinyl)pyrimidine (0.8 g) in chloroform (10 ml) were added triethylamine (0.39 ml) and 2,4-dichloro-5-sulfamoylbenzoyl chloride (0.74 g), and the mixture was stirred at ambient temperature for 20 hours. The reaction mixture was washed with water, dried over magnesium sulfate, and evaporated. The obtained mixture was chromatographed on silica gel eluting with chloroform-methanol mixture (49:1 v/v), to give 4-[4-(2,4-dichloro-5-sulfamoylbenzoyl)piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-2-methylpyrimidine (1.03 g).

reactant | 6-(3,4-dimethoxyphenyl)-2-methyl-4-(1-piperazinyl)pyrimidine | 0.8 g | COC=1C=C(C=CC1OC)C1=CC(=NC(=N1)C)N1CCNCC1 | C17H22N4O2
reactant | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5-sulfamoylbenzoyl chloride | 0.74 g | ClC1=C(C(=O)Cl)C=C(C(=C1)Cl)S(N)(=O)=O | C7H4Cl3NO3S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(2,4-dichloro-5-sulfamoylbenzoyl)piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-2-methylpyrimidine | 1.03 g | ClC1=C(C(=O)N2CCN(CC2)C2=NC(=NC(=C2)C2=CC(=C(C=C2)OC)OC)C)C=C(C(=C1)Cl)S(N)(=O)=O | C24H25Cl2N5O5S
